US08247429B2
methyl 6-chloro-5-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2-methyl-2H-indazole-4-carboxylate
A suspension of methyl 5-bromo-6-chloro-2-methyl-2H-indazole-4-carboxylate (330 mg, 1.09 mmol), palladium acetate (24.5 mg, 0.109 mmol), triphenylphosphine (57.2 mg, 0.218 mmol), potassium carbonate (226 g, 1.64 mmol) and methyl acrylate (147 μL, 1.64 mmol) in N,N-dimethylformamide (11 mL) was stirred with heating at 100° C. for 1 hr. The reaction solution was diluted with ethyl acetate, washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=30/70→60/40) to give the title compound (270 mg, yield 80%).

reactant | methyl 5-bromo-6-chloro-2-methyl-2H-indazole-4-carboxylate | 1.09 mmol, 330 mg | BrC1=C(C2=CN(N=C2C=C1Cl)C)C(=O)OC | C10H8BrClN2O2
reactant | triphenylphosphine | 0.218 mmol, 57.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 1.64 mmol, 226 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl acrylate | 1.64 mmol, 147 μL | C(C=C)(=O)OC | C4H6O2
solvent | N,N-dimethylformamide | 11 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.109 mmol, 24.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 6-chloro-5-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2-methyl-2H-indazole-4-carboxylate | 270 mg, yield 80% | ClC=1C(=C(C2=CN(N=C2C1)C)C(=O)OC)\C=C\C(=O)OC | C14H13ClN2O4
